US20010027196A1
Following the method of Menozzi et al. (J. Heterocyclic Chem. 1987, 24, 1669), a mixture of 5.3 g (29.1 mmol) ethyl beta-oxo-2-furanpropionate and 7.7 ml (57.8 mmol) N,N-dimethylformamide dimethyl acetal was stirred for 6.5 hours at room temperature. The reaction mixture was then concentrated in vacuo and the residue partitioned between ethyl acetate and water. The organic phase was dried with sodium sulfate and concentrated in vacuo. Chromatography (ethyl acetate) afforded 3.6 g (52%) 3-dimethylamino-2-(furan-2-carbonyl)-acrylic acid ethyl ester as a yellow oil. EI-MS m/e (%): 237 (M+, 36), 163 ([M—EtOH—CO]+, 100), 95 (86).

reactant | ethyl beta-oxo-2-furanpropionate | 29.1 mmol, 5.3 g | O=C(CC(=O)OCC)C=1OC=CC1 | C9H10O4
reactant | N,N-dimethylformamide dimethyl acetal | 57.8 mmol, 7.7 ml | COC(N(C)C)OC | C5H13NO2
product | 3-dimethylamino-2-(furan-2-carbonyl)-acrylic acid ethyl ester | 3.6 g, 52% | C(C)OC(C(=CN(C)C)C(=O)C=1OC=CC1)=O | C12H15NO4
